US09227975B2
To a methanol (1 mL) solution of (R)—N-(6-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)imidazo[1,2-b]pyridazin-3-yl)-3-(hydroxymethyl)azetidine-1-carboxamide (9.9 mg, 0.0231 mmol) was added HCl as a solution is dioxane (30 μL). After 30 minutes, the reaction was concentrated to provide (R)—N-(6-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)imidazo[1,2-b]pyridazin-3-yl)-3-(hydroxymethyl)azetidine-1-carboxamide hydrochloride (10.2 mg, 0.0219 mmol, 94.9% yield) as a yellow solid. MS (apci) m/z=429.4 (M+H).

reactant | methanol | 1 mL | CO | CH4O
reactant | (R)—N-(6-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)imidazo[1,2-b]pyridazin-3-yl)-3-(hydroxymethyl)azetidine-1-carboxamide | 0.0231 mmol, 9.9 mg | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C=1C=CC=2N(N1)C(=CN2)NC(=O)N2CC(C2)CO | C21H22F2N6O2
reactant | HCl | Cl | ClH
solvent | dioxane | 30 μL | O1CCOCC1 | C4H8O2
product | (R)—N-(6-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)imidazo[1,2-b]pyridazin-3-yl)-3-(hydroxymethyl)azetidine-1-carboxamide hydrochloride | 0.0219 mmol, 10.2 mg, 94.9% yield | Cl.FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C=1C=CC=2N(N1)C(=CN2)NC(=O)N2CC(C2)CO | InChI=1S/C21H22F2N6O2.ClH/c22-14-3-4-16(23)15(8-14)17-2-1-7-28(17)19-6-5-18-24-9-20(29(18)26-19)25-21(31)27-10-13(11-27)12-30;/h3-6,8-9,13,17,30H,1-2,7,10-12H2,(H,25,31);1H/t17-;/m1./s1
